US05096609
the amorphous low-water sodium disilicate it contains as matrix substance has been produced by partial dehydration of commercially available powdered amorphous sodium disilicate having a water content of 15 to 23% by weight

reactant | water sodium disilicate | [Si]([O-])([O-])([O-])O[Si]([O-])([O-])[O-].[Na+].O.[Na+].[Na+].[Na+].[Na+].[Na+]
solvent | water | O | H2O
product | sodium disilicate | [Si]([O-])([O-])([O-])O[Si]([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+] | InChI=1S/6Na.O7Si2/c;;;;;;1-8(2,3)7-9(4,5)6/q6*+1;-6
